US09422331B2
To a rt solution of tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-5-(3-methoxypropanoyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (51.2 mg, 71.9 μmol) in MeOH (71.9 μl) was added 2 M HCl in Et2O (288 μl). The reaction was stirred at rt for 3 h, then concentrated, taken up in H2O, and lyophilized to provide (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-5-(3-methoxypropanoyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (42.3 mg, 91%) as a white solid. MS m/z 611/613 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-5-(3-methoxypropanoyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 71.9 μmol, 51.2 mg | BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CCOC)=O)C=CC=C2)OC | C35H43BrN4O7
reactant | HCl | 2 M | Cl | ClH
solvent | MeOH | 71.9 μl | CO | CH4O
solvent | Et2O | 288 μl | CCOCC | C4H10O
product | (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-5-(3-methoxypropanoyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 42.3 mg, 91% | Cl.BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(CCOC)=O)C=CC=C2)OC | InChI=1S/C30H35BrN4O5.ClH/c1-18(32-3)29(37)33-28-19(2)35(27(36)14-15-39-4)25-9-7-6-8-24(25)34(30(28)38)17-23-22-12-11-21(31)16-20(22)10-13-26(23)40-5;/h6-13,16,18-19,28,32H,14-15,17H2,1-5H3,(H,33,37);1H/t18-,19-,28-;/m0./s1
